US04751015
Preparation of 1,1-Dimethyl-4-hydroxypiperidinium Chloride
This compound was prepared by the procedure described for 2-[4-(N,N,N-trimethylammonium)phenyl]ethanol chloride. Typical reagent levels were as follows: 4-hydroxy-1-methylpiperidine (21.7 g, 0.188 mol), iodomethane (40.0 g, 0.280 mol), and methylene chloride (50 ml).

reactant | 4-hydroxy-1-methylpiperidine | 0.188 mol, 21.7 g | OC1CCN(CC1)C | C6H13NO
reactant | iodomethane | 0.280 mol, 40.0 g | IC | CH3I
reactant | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 1,1-Dimethyl-4-hydroxypiperidinium Chloride | [Cl-].C[N+]1(CCC(CC1)O)C | InChI=1S/C7H16NO.ClH/c1-8(2)5-3-7(9)4-6-8;/h7,9H,3-6H2,1-2H3;1H/q+1;/p-1
